US04576947
(C) Alternative preparation of 1,3-dimethyl-7-(6-hydroxyhexyl)-xanthine
1,3-dimethyl-7-(6-bromohexyl)-xanthine is refluxed overnight with a sixfold molar excess of potassium acetate with the addition of catalytic quantities, such as 2 mol percent, referred to the xanthine, of potassium iodide in a mixture of 5 ml of acetic anhydride and 200 ml of glacial acetic acid. The solvent is evaporated in vacuo. The residue is dissolved in water and the pH of the solution is adjusted to a value of 7 with 4N sodium hydroxide. The solution is then extracted with chloroform. The isolated 1,3-dimethyl-7-(acetoxyhexyl)-xanthine is subsequently hydrolysed to the corresponding hydroxyalkyl compound by boiling with 5% sulfuric acid.

reactant | 1,3-dimethyl-7-(6-bromohexyl)-xanthine | CN1C(=O)N(C=2N=CN(C2C1=O)CCCCCCBr)C | C13H19BrN4O2
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | xanthine | N1C(=O)NC=2N=CNC2C1=O | C5H4N4O2
reactant | potassium iodide | [I-].[K+]
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 1,3-dimethyl-7-(6-hydroxyhexyl)-xanthine | CN1C(=O)N(C=2N=CN(C2C1=O)CCCCCCO)C | C13H20N4O3
